.SUBCKT gf180mcu_fd_sc_mcu9t5v0__addh_4 A B CO S VDD VSS
*.PININFO A:I B:I CO:O S:O VDD:P VDD:P VSS:P VSS:G
*.EQN CO=(A * B);S=!((A * B) + !(A + B))
M_i_5_1 net_0_0 A VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_4_1 NCO B net_0_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_4_0 net_0_1 B NCO VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_5_0 VSS A net_0_1 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_10_0 net_1 NCO VSS VSS nmos_6p0 W=0.880000U L=0.600000U
M_i_8_0 NS A net_1 VSS nmos_6p0 W=0.880000U L=0.600000U
M_i_9_0 net_1 B NS VSS nmos_6p0 W=0.880000U L=0.600000U
M_i_9_1 NS B net_1 VSS nmos_6p0 W=0.880000U L=0.600000U
M_i_8_1 net_1 A NS VSS nmos_6p0 W=0.880000U L=0.600000U
M_i_10_1 VSS NCO net_1 VSS nmos_6p0 W=0.880000U L=0.600000U
M_i_2_3 CO NCO VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_2 VSS NCO CO VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_1 CO NCO VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_0 VSS NCO CO VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_3 S NS VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_2 VSS NS S VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_1 S NS VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_0 VSS NS S VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_7_1 NCO A VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6_1 VDD B NCO VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6_0 NCO B VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_0 VDD A NCO VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_13_0 NS NCO VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_11_0 net_2_0 A NS VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_12_0 VDD B net_2_0 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_12_1 net_2_1 B VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_11_1 NS A net_2_1 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_13_1 VDD NCO NS VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_3 CO NCO VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_2 VDD NCO CO VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_1 CO NCO VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_0 VDD NCO CO VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_3 S NS VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_2 VDD NS S VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_1 S NS VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_0 VDD NS S VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
